US20010056188A1
1) 2-(4-Chlorophenylsulfonyl)-3-methylsulfanyl-3-(pyridin-3-ylamino)-2-propenenitrile
To a solution of 4-chlorophenylsulfonylacetonitrile (1.00 g, 4.6 mmol) in dry acetone (10 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then pyridin-3-yl isothiocyanate (0.663 g, 4.9 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 4 h, and then filtered. To the filtrate methyl iodide (0.315 ml, 5.1 mmol) was added. The mixture was stirred at room temperature for 16 h. The reaction mixture was concentrated and the residue was taken up into ethyl acetate and water. The organic layer was washed with 1N aqueous HCl (2×). The organic phase was dried (sodium sulfate) and concentrated. The residue was purified by flash chromatography using heptanelethyl acetate 1:2 as eluent and recrystallisation in ethyl acetate to give 294 mg (16%) of the title compound. Mp 181-182° C. 1H NMR (300 MHz, CDCl3): δ=2.20 (s, 3H), 7.36 (dd, 1H), 7.54 (dm, 2H), 7.6 (m, 1H), 7.88 (dm, 2H), 8.55 (m, 2H), 9.85 (br s, 1H); EI SP/MS: 365 (M+).

reactant | 4-chlorophenylsulfonylacetonitrile | 4.6 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridin-3-yl isothiocyanate | 4.9 mmol, 0.663 g | N1=CC(=CC=C1)N=C=S | C6H4N2S
reactant | methyl iodide | 5.1 mmol, 0.315 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chlorophenylsulfonyl)-3-methylsulfanyl-3-(pyridin-3-ylamino)-2-propenenitrile | 294 mg, 16% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(NC=1C=NC=CC1)SC | C15H12ClN3O2S2
